Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],1.30046432218
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:12]([H:13])([H:14])=[C:15]([H:16])[H:17].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],0.913836880269
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15],4.25784688246
[C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-7.367162866419999
[H:1][C:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:5][H:6].[H:1][C:2]=[C:3]([H:4])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],6.080058301009999
[H:1][O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.65310850102
[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2][C:3]([C:4]([H:5])[H:6])=[C:7]([O:8][H:9])[O:10][H:11],0.2439770350589999
[H:13].[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.97102752181
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:8].[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6](=[O:7])[H:8],-5.6878983175199975
[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.9705072764
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11].[H:5],2.91356612932
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18],4.5576601849500005
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:9][H:10].[H:8]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-1.6470105403600002
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])[H:11],2.43285354753
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[O:8][H:9],4.73179473143
[H:10].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])=[C:8][H:9])[C:11]([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],-5.10013058777
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.7778371902
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11],1.33865636034
[C:1][O:2][C:3]=[C:4]=[O:5].[C:6][H:7]>>[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7],-2.39990358491
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.7542382973299997
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],1.26360216409
[H:1][O:2][C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:11]([O:10])([H:12])[H:13],0.023494900669900003
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-6.19573231293
[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2],2.66024664567
[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[C:6][H:7].[O:1][O:2][C:3]([H:4])[H:5],4.19451073
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.08149280575
[H:6].[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:7]\[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.82473345852
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18].[H:6],1.73778463092
